US09227976B2
Step 4: 1-(1-ethoxyethyl)-4-(phenylethynyl)-1H-pyrazol-5-amine
A solution of N-(4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide (17.6 g, 78 mmol), ethoxyethene (11.2 mL, 117 mmol) and HCl in 1,4-dioxane (1 mL, 4 mmol) in CH2Cl2 (520 mL) was stirred at room temperature for 1 h and concentrated in vacuo. The residue was dissolved in ethanol (260 mL) and 25% aq. NaOH solution (260 mL) and the reaction mixture was heated to 75° C. for 4 h and cooled to room temperature. The ethanol was part concentrated in vacuo and the resulting solid collected by filtration, washed with water and minimum cold ethanol and dried in vacuo to provide the title compound as a solid (16 g).

reactant | N-(4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide | 78 mmol, 17.6 g | C1(=CC=CC=C1)C#CC=1C=NNC1NC(C)=O | C13H11N3O
reactant | ethoxyethene | 117 mmol, 11.2 mL | C(C)OC=C | C4H8O
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 520 mL | C(Cl)Cl | CH2Cl2
catalyst | 1,4-dioxane | 4 mmol, 1 mL | O1CCOCC1 | C4H8O2
product | 1-(1-ethoxyethyl)-4-(phenylethynyl)-1H-pyrazol-5-amine | 16 g | C(C)OC(C)N1N=CC(=C1N)C#CC1=CC=CC=C1 | C15H17N3O
